US07319099B2
(a) 4-Cyclobutanesulfonyl-1,2-difluoro-benzene
To 5.6 mmol 3,4-difluoro-benzenesulfinic acid and 6.2 mmol triethylamine in 10 ml DMF were added 8.4 mmol bromocyclobutane and 0.2 mmol sodium iodide and the mixture heated at 100° C. for 48 h. The reaction mixture was then poured onto water and extracted three times with ethyl acetate. The combined organic phases were then washed with saturated aq. NaCl solution, dried over Na2SO4, and concentrated in vacuo. The residue was chromatographed on silica gel (eluant: ethyl acetate/heptane gradient) to afford the title compound. MS (m/e): 233.1 (M+H+, 100%)

reactant | 3,4-difluoro-benzenesulfinic acid | 5.6 mmol | FC=1C=C(C=CC1F)S(=O)O | C6H4F2O2S
reactant | triethylamine | 6.2 mmol | C(C)N(CC)CC | C6H15N
reactant | bromocyclobutane | 8.4 mmol | BrC1CCC1 | C4H7Br
reactant | sodium iodide | 0.2 mmol | [I-].[Na+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-Cyclobutanesulfonyl-1,2-difluoro-benzene | C1(CCC1)S(=O)(=O)C1=CC(=C(C=C1)F)F | C10H10F2O2S
